US04211788
(c) Ethyl 7,8,9,10-tetrahydro-4-oxo-4H,6H-cyclohepta[g]-1-benzopyran-2-carboxylate
A solution of the product from step (b) (10 gm) in ethanol (50 ml) was added to sodium ethoxide solution (prepared by dissolving sodium (5.75 gm) in ethanol (150 ml)) and stirred at room temperature for ten minutes. Diethyl oxalate (17.5 gm) in ethanol (30 ml) was added dropwise and the reaction mixture was refluxed for 90 minutes, cooled, poured into dilute hydrochloric acid and extracted with chloroform. Removal of the chloroform in vacuo yielded a brown oil which was refluxed with ethanol (150 ml) containing conc. hydrochloric acid (80 ml) for five hours. The bulk of the solvent was removed in vacuo and the residues were poured into water and extracted with ethyl acetate. After washing with brine and water the ethyl acetate was removed in vacuo yielding a brown oil which was found to contain the chromone ester and the chromone acid. Trituration of the oil with 40°/60° C. petroleum ether yielded the title compound, a fawn coloured solid which was crystallised from aqueous ethanol. Wt 0.34 gm. Mpt. 74°-75 ° C.

reactant | sodium ethoxide | 150 ml, 5.75 gm | [O-]CC.[Na+]
reactant | Diethyl oxalate | 17.5 gm | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | hydrochloric acid | Cl | ClH
reactant | hydrochloric acid | 80 ml | Cl | ClH
reactant | chromone | O1C=CC(C2=CC=CC=C12)=O | C9H6O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | Ethyl 7,8,9,10-tetrahydro-4-oxo-4H,6H-cyclohepta[g]-1-benzopyran-2-carboxylate | O=C1C=C(OC2=C1C=C1C(=C2)CCCCC1)C(=O)OCC | C17H18O4
